US07109339B2
A solution of 6-cyano-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (1.00 g) in CH2Cl2 (10 mL) was treated with TFA (2 mL). The reaction mixture was stirred for 7 h then converted to the free base with K2CO3 to provide 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carbonitrile (0.66 g, 99%) as a white solid: mp 230–235° C.; 1H NMR (300 MHz, CD3OD) δ 7.71–7.69 (m, 1H), 7.50–7.46 (m, 1H), 7.16–7.11 (m, 1H), 4.05–4.04 (m, 2H), 3.26–3.21 (m, 2H), 2.91–2.87 (m, 2H); ESI MS m/z 198 [C12H, N3+H]+.

reactant | 6-cyano-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)C#N)CC1 | C17H19N3O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carbonitrile | 0.66 g, 99% | C1NCCC=2NC3=C(C=CC=C3C21)C#N | C12H11N3
